US07612211B2
C. 5-bromo-2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazole
A 5-L 4-neck round bottom flask equipped with a thermocouple, mechanical stirrer and an argon inlet adapter was charged with 4-bromo-1,2-phenylenediamine (166.4 g, 0.863 mol), ethanol (2 L), followed by the addition of 2-(4-trifluoromethyl-phenoxy)-acetimidic acid ethyl ester hydrochloride (272.0 g, 0.959 mol) and ethanol (0.9 L). The initial solution of diamine turned to a suspension upon the addition of 2-(4-trifluoromethyl-phenoxy)-acetimidic acid ethyl ester hydrochloride, and an exotherm from 17° C. to 28° C. was noted. The reaction was assayed at 2.5 h and found to be complete. The reaction was filtered though Celite (60 g) and the gray solid was washed with ethanol (200 mL) until the filtrates were no longer colored. A clean 12-L 4-neck round bottom flask equipped with a mechanical stirrer, a 1-L addition funnel and ice bath for cooling was set-up and the ethanol filtrates were transferred into the 12-L flask. While cooling the flask, water (3.5 L) was added to the ethanol, and the resulting brown suspension was stirred for 1 h in the ice bath to enhance recovery. The brown solid was filtered evenly between two Buchner funnels, each washed with cold water (150 mL, 2×200 mL), and the brown solid was air-dried for a few hours. The brown solid was transferred to two amber bottles, dried in a hi-vac oven (60 mm) at 60° C., to a constant weight and afforded a total of 331.9 g (103% isolated yield; 97.7-98%, HPLC area %) of the title compound as a brown powder.

reactant | 4-bromo-1,2-phenylenediamine | 0.863 mol, 166.4 g | BrC1=CC(=C(C=C1)N)N | C6H7BrN2
reactant | 2-(4-trifluoromethyl-phenoxy)-acetimidic acid ethyl ester hydrochloride | 0.959 mol, 272.0 g | Cl.C(C)OC(COC1=CC=C(C=C1)C(F)(F)F)=N
solvent | ethanol | 0.9 L | C(C)O | C2H6O
solvent | ethanol | 2 L | C(C)O | C2H6O
product | 5-bromo-2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazole | yield; 97.7-98% | BrC1=CC2=C(NC(=N2)COC2=CC=C(C=C2)C(F)(F)F)C=C1 | C15H10BrF3N2O
